US05045557
1-(Dimethylsulphamoyl)-4-(2,4,6-trichlorobenzoyl)imidazole (2.6 g) in dry tetrahydrofuran (15 ml) was added over 30 seconds to lithium aluminium hydride (110 mg) in dry tetrahydrofuran (15 ml) with cooling. The mixture was stirred at 5° for 30 minutes. Water (0.110 ml ), aqueous sodium hydroxide (15%: 0.110 ml) and water (0.330 ml) were added and the mixture stirred for 15 minutes at room temperature. The mixture was filtered and the precipitate washed with tetrahydrofuran. The filtrate and washings were evaporated under reduced pressure and the residue washed with diisopropyl ether and dried under reduced pressure to give 1-(dimethylsulphamoyl)-4-(2,4,6-trichloro-α-hydroxybenzyl)imidazole, as an off white solid. To this product (1.92 g) in dry tetrahydrofuran (40 ml) was added sodium hydride (170 mg; 80g in oil), with stirring, under nitrogen. Trimethylsilyl chloride (0.7 ml) was added to this mixture at 30° to give the trimethyl silyl ether. The mixture was then cooled to - 70° and butyllithium (2.2 ml; 2 5M in hexane) added. The mixture was stirred at -78° for 30 minutes, dimethylformamide (0.5 ml) added and the mixture allowed to warm to room temperature. The mixture was poured into ice/water, stirred for 30 minutes and the solid collected and dried to give crude 1-(dimethylsulphamoyl)-2-formyl-4-[(2,4,6-trichloro-α-(trimethylsilyloxy)benzyl]imidazole. This was then then treated with hydroxylamine hydrochloride in a similar manner to step (b) in Example 1, to give crude 1-(dimethylsulphamoyl)-2-(hydroxyiminomethyl)-4-(2,4,6-trichloro-α-hydroxybenzyl)imidazole. This was then treated with trifluoroacetic anhydride in a similar manner to step (c) in Example 1, to give crude 2-cyano-1-(dimethylsulphamoyl)-4-(2,4,6-trichloro-α-hydroxybenzyl)imidazole, as an off white solid.

reactant | 1-(Dimethylsulphamoyl)-4-(2,4,6-trichlorobenzoyl)imidazole | 2.6 g | CN(S(=O)(=O)N1C=NC(=C1)C(C1=C(C=C(C=C1Cl)Cl)Cl)=O)C | C12H10Cl3N3O3S
reactant | lithium aluminium hydride | 110 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 0.110 ml | O | H2O
reactant | sodium hydroxide | 0.110 ml | [OH-].[Na+]
reactant | water | 0.330 ml | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-(dimethylsulphamoyl)-4-(2,4,6-trichloro-α-hydroxybenzyl)imidazole | CN(S(=O)(=O)N1C=NC(=C1)C(C1=C(C=C(C=C1Cl)Cl)Cl)O)C | C12H12Cl3N3O3S
